US04752338
621 g of phosgene are condensed in 2.3 l of chlorobenzene at about 0° C. 353 g of 1,2-bis(3-aminophenyl)-1,1,2,2-tetrafluoroethane, dissolved in 1.2 l of chlorobenzene, are slowly added at a temperature of -10° C. to +10° C. The batch is heated up to 120° C. in the course of four hours. Further gaseous phosgene is passed in from about 80° C. The solution becomes clear at 100° to 110° C. Phosgene is passed through the solution at 120° C. for a further 90 minutes. The phosgene still dissolved is then blown out with CO2 and the mixture is subsequently worked up by distillation. 355 g of 1,2-bis-(3-isocyanatophenyl)-1,1,2,2-tetrafluoroethane, boiling point: 145° to 150° C./0.1 mbar, melting point: 139° to 140° C. (purity, according to gas chromatography, 97%) are obtained.

reactant | phosgene | 621 g | C(=O)(Cl)Cl | CCl2O
reactant | 1,2-bis(3-aminophenyl)-1,1,2,2-tetrafluoroethane | 353 g | NC=1C=C(C=CC1)C(C(F)(F)C1=CC(=CC=C1)N)(F)F | C14H12F4N2
reactant | CO2 | C(=O)=O | CO2
solvent | chlorobenzene | 2.3 l | ClC1=CC=CC=C1 | C6H5Cl
solvent | chlorobenzene | 1.2 l | ClC1=CC=CC=C1 | C6H5Cl
product | 1,2-bis-(3-isocyanatophenyl)-1,1,2,2-tetrafluoroethane | 355 g | N(=C=O)C=1C=C(C=CC1)C(C(F)(F)C1=CC(=CC=C1)N=C=O)(F)F | C16H8F4N2O2
